** sch_path: /home/namibj/eda/designs/tt_gf-0p3_mcml/xschem/receiver/ctle_stage_v1.sch
**.subckt ctle_stage_v1 VSS VDD out_n out_p in_p in_n tail_bias neg_tail_bias
*.ipin VSS
*.ipin VDD
*.opin out_n
*.opin out_p
*.ipin in_p
*.ipin in_n
*.ipin tail_bias
*.ipin neg_tail_bias
XM1 net2 in_p net1 VSS nfet_03v3 L=0.28u W='clk_buf_fwd_w * clk_buf_in_out_ratio' nf='clk_buf_fwd_fingers' ad='int((nf+1)/2) * W/nf * 0.18u'
+ as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W'
+ sa=0 sb=0 sd=0
XM3 net1 tail_bias VSS VSS nfet_03v3 L='clk_buf_tail_l' W='clk_buf_fwd_w * clk_buf_in_out_ratio * clk_buf_tail_ratio' nf='clk_buf_tail_fingers'
+ ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)'
+ nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 net3 in_n net1 VSS nfet_03v3 L=0.28u W='clk_buf_fwd_w * clk_buf_in_out_ratio' nf='clk_buf_fwd_fingers' ad='int((nf+1)/2) * W/nf * 0.18u'
+ as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W'
+ sa=0 sb=0 sd=0
XR1 net2 VDD VSS ppolyf_u_1k r_width='clk_buf_load_w' r_length='clk_buf_load_l / clk_buf_in_out_ratio'
XR2 net3 VDD VSS ppolyf_u_1k r_width='clk_buf_load_w' r_length='clk_buf_load_l / clk_buf_in_out_ratio'
XM4 out_n net3 net4 VSS nfet_03v3 L=0.28u W='clk_buf_fwd_w' nf='clk_buf_fwd_fingers' ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 net4 tail_bias VSS VSS nfet_03v3 L='clk_buf_tail_l' W='clk_buf_fwd_w * clk_buf_tail_ratio' nf='clk_buf_tail_fingers' ad='int((nf+1)/2) * W/nf * 0.18u'
+ as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W'
+ sa=0 sb=0 sd=0
XM6 out_p net2 net4 VSS nfet_03v3 L=0.28u W='clk_buf_fwd_w' nf='clk_buf_fwd_fingers' ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XR3 out_n VDD VSS ppolyf_u_1k r_width='clk_buf_load_w' r_length='clk_buf_load_l'
XR4 out_p VDD VSS ppolyf_u_1k r_width='clk_buf_load_w' r_length='clk_buf_load_l'
XM7 net2 out_n net5 VSS nfet_03v3 L=0.28u W='clk_buf_neg_w' nf='clk_buf_neg_fingers' ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 net5 neg_tail_bias VSS VSS nfet_03v3 L='clk_buf_tail_l' W='clk_buf_neg_w * clk_buf_neg_tail_ratio' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u'
+ as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W'
+ sa=0 sb=0 sd=0
XM9 net3 out_p net5 VSS nfet_03v3 L=0.28u W='clk_buf_neg_w' nf='clk_buf_neg_fingers' ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM10 tail_bias_ref tail_bias_ref 0 0 nfet_03v3 L='clk_buf_tail_l' W='clk_buf_fwd_w * clk_buf_tail_ratio' nf='clk_buf_tail_fingers'
+ ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)'
+ nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM11 neg_tail_bias_ref neg_tail_bias_ref 0 0 nfet_03v3 L='clk_buf_tail_l' W='clk_buf_neg_w * clk_buf_neg_tail_ratio' nf='ceil(clk_buf_tail_fingers * clk_buf_neg_tail_ratio)'
+ ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)'
+ nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
E1 tail_bias 0 tail_bias_ref 0 1
E2 neg_tail_bias 0 neg_tail_bias_ref 0 1
**** begin user architecture code

**.include /home/namibj/projects/asic/pdk/gf180mcuD/libs.tech/ngspice/design.ngspice
**.lib /home/namibj/projects/asic/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
**.lib /home/namibj/projects/asic/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical

* Xyce-only:
.include /home/namibj/projects/asic/pdk/gf180mcuD/libs.tech/xyce/design.xyce
.lib /home/namibj/projects/asic/pdk/gf180mcuD/libs.tech/xyce/sm141064.xyce typical
.lib /home/namibj/projects/asic/pdk/gf180mcuD/libs.tech/xyce/sm141064.xyce res_typical


* Xyce-only:
* Stepping as nested loop(s):
*%.step oct clk_buf_neg_ratio 0.02 1 5
*.step oct clk_buf_neg_ratio 0.04 1 5
*.step lin input_cm 1.0 3.2 0.1
*.result {V(tail_bias)}
*.result {V(neg_tail_bias)}
*.result {V(tail_bias_ref)}
*.result {V(neg_tail_bias_ref)}
*.result {V(out_n)}
*.result {V(out_p)}


*.
*.option savecurrents

.param clk_buf_fwd_w=16u
.param clk_buf_fwd_fingers=2
.param clk_buf_in_out_ratio=0.55
.param clk_buf_tail_fingers=4
.param clk_buf_tail_ratio=4
.param clk_buf_tail_l=1u
.param clk_buf_load_w=2u
.param clk_buf_load_r=4k
.param clk_buf_load_l='clk_buf_load_r/1000 * clk_buf_load_w'
*.param clk_buf_neg_ratio='0.155'
.param clk_buf_neg_ratio='0.4'
.param clk_buf_neg_w='clk_buf_fwd_w * clk_buf_neg_ratio'
.param clk_buf_neg_fingers=1
.param clk_buf_neg_tail_ratio=5
.param clk_buf_neg_tail_adjust=1.5
.param clk_buf_tail_current=512u

.param clk_buf_tb_fan_out=1.78039
.param clk_buf_tb_freq=2.5G

* Xyce-only:

.param impedance=4k
.param input_cm=2.5
.param vdd=3.3

.ac DEC 20 3MEG 30G
*.ac LIN 5 1G 5G
.lin
*.op

*.options nonlin continuation=2 debuglevel=3 continuation=35

Vvdd VDD VSS 'vdd'
Vvss VSS 0 0
Ineg_tail_bias VSS neg_tail_bias_ref 'clk_buf_tail_current * clk_buf_neg_ratio * clk_buf_neg_tail_adjust'
Itail_bias VSS tail_bias_ref 'clk_buf_tail_current'
P1 in_p 0 DC 'input_cm' port=1 Z0 = 'impedance / 2'
P2 in_n 0 DC 'input_cm' port=2 Z0 = 'impedance / 2'
P3 out_p out_n port=3 Z0 = 'impedance'

*.control
*save all
*tran 5p 5n
*plot in_p in_n out_p out_n x1.net1
*plot in_p in_n out_p out_n x1.net1 v(out2_p) v(out2_n) ((v(out_p) + v(out_n))/2) ((v(out2_p) + v(out2_n)) / 2)
*op
*write clk_buf_tb.raw
*.endc
**** end user architecture code
**.ends
.end
